US05407897
Concentrated hydrochloric acid is added to a mixture of 4-cyano-3,4-dihydro-6-methoxy-2H-1-benzopyran-4-malononitrile (42.76 g, 0.1688 mol) in acetic acid at 30° C. The reaction mixture is heated at reflux for three days, cooled and concentrated in vacuo to give a brown solid. The solid is stirred in an ether/water mixture, filtered, washed sequentially with ether and water and dried to obtain 4-carboxy-3,4-dihydro-6-hydroxy-2H-1-benzopyran-4-acetic acid as a gray solid (10.25 g) which is identified by 1H and 13CNMR spectral analyses.

reactant | hydrochloric acid | Cl | ClH
reactant | 4-cyano-3,4-dihydro-6-methoxy-2H-1-benzopyran-4-malononitrile | 0.1688 mol, 42.76 g | C(#N)C1(CCOC2=C1C=C(C=C2)OC)C(C#N)C#N | C14H11N3O2
reactant | ether water | CCOCC.O
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 4-carboxy-3,4-dihydro-6-hydroxy-2H-1-benzopyran-4-acetic acid | 10.25 g | C(=O)(O)C1(CCOC2=C1C=C(C=C2)O)CC(=O)O | C12H12O6
